US06432963B1
A 3.0 ml portion of ethylenediamine was added to a mixture of 1.0 g of 2-(benzotriazol-1-yloxy)-4-(4-methylanilino)pyrimidine-5-carboxamide and 30 ml of acetonitrile, followed by stirring at room temperature for 1 hour and 40 minutes. Water was added to the reaction mixture, followed by extraction with a chloroform-isopropanol mixed solution. The resulting organic layer was dried over anhydrous sodium sulfate and concentrated under a reduced pressure and then the thus obtained residue was purified by silica gel column chromatography (eluting solvent; chloroform:methanol:aqueous ammonia) . By recrystallizing the thus obtained colorless solid from an ethyl acetate-ethanol mixed solvent, 471 mg of 2-(2-aminoethylamino)-4-(4-methylanilino)pyrimidine-5-carboxamide was obtained (colorless crystals).

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 2-(benzotriazol-1-yloxy)-4-(4-methylanilino)pyrimidine-5-carboxamide | 1.0 g | N1(N=NC2=C1C=CC=C2)OC2=NC=C(C(=N2)NC2=CC=C(C=C2)C)C(=O)N | C18H15N7O2
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 2-(2-aminoethylamino)-4-(4-methylanilino)pyrimidine-5-carboxamide | 471 mg | NCCNC1=NC=C(C(=N1)NC1=CC=C(C=C1)C)C(=O)N | C14H18N6O
